* File: AND6_domino.pex.spi.pex
* Created: Tue Apr 22 14:26:13 2025
* Program "Calibre xRC"
* Version "v2019.3_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND6_DOMINO_CLK 18 24 30 34 58
c0 67 0 0.0646674f
c1 66 0 0.044313f
c2 62 0 0.0539404f
c3 61 0 0.0788224f
c4 59 0 0.0504928f
c5 55 0 0.073265f
c6 50 0 0.0892123f
c7 45 0 0.0753315f
c8 43 0 0.0785255f
c9 42 0 0.0115888f
c10 37 0 0.0760897f
c11 34 0 0.344449f
c12 30 0 0.364448f
c13 24 0 0.0890385f
c14 20 0 0.154896f
c15 18 0 0.0817178f
c16 14 0 0.0847265f
c17 10 0 0.00363241f
c18 9 0 0.0282733f
c19 6 0 0.357079f
c20 5 0 0.02205f
c21 2 0 0.188751f
r22 67 69 0.0486091
r23 66 67 8
r24 62 64 0.0486091
r25 61 62 8
r26 58 59 0.0487391
r27 55 58 8
r28 50 52 8.08937
r29 50 66 13.2552
r30 45 47 8.08937
r31 45 61 13.2552
r32 37 40 2.75745
r33 37 55 13.2552
r34 34 52 114.75
r35 30 47 122
r36 22 43 0.990414
r37 22 24 27
r38 21 42 3.81101
r39 20 43 3.81101
r40 20 21 69
r41 16 42 0.990414
r42 16 18 27
r43 15 40 4.73303
r44 14 42 3.81101
r45 14 15 34
r46 9 69 0.1274
r47 7 10 0.0275239
r48 6 9 0.0363174
r49 6 7 0.8749
r50 5 10 0.00715299
r51 5 64 0.0897
r52 2 10 0.0275239
r53 2 59 0.6695
.ends

.subckt PM_AND6_DOMINO_NETY 6 11 20 26 32 38 44
c0 65 0 0.582001f
c1 64 0 0.0489178f
c2 61 0 0.0269142f
c3 55 0 0.0289063f
c4 52 0 0.0805086f
c5 51 0 0.104729f
c6 47 0 0.0183327f
c7 46 0 0.022097f
c8 44 0 0.137409f
c9 41 0 0.371497f
c10 38 0 0.167992f
c11 34 0 0.0431558f
c12 32 0 0.12949f
c13 28 0 0.0703765f
c14 26 0 0.129514f
c15 23 0 0.0320675f
c16 22 0 0.0678617f
c17 20 0 0.198212f
c18 14 0 0.527482f
r19 64 65 0.0487391
r20 61 65 2.0696
r21 59 61 0.0487391
r22 54 55 8
r23 52 64 8
r24 51 52 13.2552
r25 48 51 6.2234
r26 42 55 0.528559
r27 42 44 60
r28 41 54 0.528559
r29 40 48 4.73303
r30 40 41 146
r31 36 48 4.73303
r32 36 38 49.75
r33 35 47 3.81101
r34 34 54 4.5
r35 34 35 17.5
r36 30 47 0.990414
r37 30 32 60
r38 29 46 3.81101
r39 28 47 3.81101
r40 28 29 25.5
r41 24 46 0.990414
r42 24 26 60
r43 22 46 3.81101
r44 22 23 25.5
r45 18 23 5.02856
r46 18 20 60
r47 17 59 8
r48 14 17 0.192
r49 13 17 8.16635
r50 13 14 5.44423
r51 11 13 0.85
r52 9 17 0.807
r53 8 9 16.3327
r54 6 8 3.375
.ends

.subckt PM_AND6_DOMINO_NET6 15 22 23 29 30 36 37 43
c0 73 0 0.0443406f
c1 72 0 0.0210569f
c2 69 0 0.00830658f
c3 68 0 0.0411549f
c4 64 0 0.024582f
c5 63 0 0.0684149f
c6 59 0 0.0262842f
c7 58 0 0.0695165f
c8 54 0 0.0383546f
c9 46 0 0.216934f
c10 40 0 0.423539f
c11 33 0 0.392988f
c12 26 0 0.404308f
c13 18 0 0.321116f
r14 72 73 0.0487391
r15 69 73 0.2314
r16 67 69 0.0487391
r17 67 68 0.0487391
r18 64 68 0.2288
r19 62 64 0.0487391
r20 62 63 0.0487391
r21 59 63 0.2262
r22 57 59 0.0487391
r23 57 58 0.0487391
r24 54 58 0.2275
r25 52 54 0.0487391
r26 46 48 0.1918
r27 46 72 8
r28 45 48 16.3327
r29 45 46 5.44423
r30 43 45 1.1475
r31 40 42 0.1918
r32 40 67 8
r33 39 42 16.3327
r34 39 40 5.44423
r35 37 39 1.1475
r36 36 39 1.1475
r37 33 35 0.1918
r38 33 62 8
r39 32 35 16.3327
r40 32 33 5.44423
r41 30 32 1.1475
r42 29 32 1.1475
r43 26 28 0.1918
r44 26 57 8
r45 25 28 16.3327
r46 25 26 5.44423
r47 23 25 1.1475
r48 22 25 1.1475
r49 18 21 0.1918
r50 18 52 8
r51 17 21 16.3327
r52 17 18 5.44423
r53 15 17 1.1475
.ends

.subckt PM_AND6_DOMINO_F 6 16
c0 16 0 0.100928f
c1 8 0 0.0764223f
c2 6 0 0.224133f
c3 2 0 0.107396f
r4 11 16 13.2552
r5 8 11 2.79574
r6 4 6 77.5
r7 3 8 4.73303
r8 2 4 5.02856
r9 2 3 34
.ends

.subckt PM_AND6_DOMINO_E 4 13
c0 13 0 0.106686f
c1 7 0 0.0977192f
c2 4 0 0.276289f
r3 7 9 8.08937
r4 7 13 13.2552
r5 4 9 77.5
.ends

.subckt PM_AND6_DOMINO_D 4 13
c0 13 0 0.103017f
c1 7 0 0.10994f
c2 4 0 0.275657f
r3 7 9 8.08937
r4 7 13 13.2552
r5 4 9 77.5
.ends

.subckt PM_AND6_DOMINO_C 4 13
c0 13 0 0.125792f
c1 9 0 0.12652f
c2 4 0 0.345128f
r3 9 13 13.2552
r4 6 9 6.2234
r5 2 6 4.73303
r6 2 4 113.5
.ends

.subckt PM_AND6_DOMINO_NETX 9 14 23 34 42 48 52
c0 62 0 0.0492512f
c1 55 0 0.007731f
c2 54 0 0.0229709f
c3 52 0 0.560748f
c4 48 0 0.197604f
c5 44 0 0.0686118f
c6 42 0 0.126649f
c7 38 0 0.02181f
c8 37 0 0.0404988f
c9 36 0 0.375594f
c10 34 0 0.12964f
c11 31 0 0.089209f
c12 30 0 0.0328516f
c13 26 0 0.0228279f
c14 25 0 0.0625594f
c15 23 0 0.142097f
c16 17 0 0.516683f
c17 14 0 0.0080337f
c18 12 0 0.183497f
c19 8 0 0.0297902f
c20 3 0 0.052853f
c21 2 0 0.111963f
r22 50 52 195.75
r23 46 48 60
r24 45 55 3.81101
r25 44 46 5.02856
r26 44 45 25.5
r27 40 55 0.990414
r28 40 42 60
r29 39 54 3.6993
r30 38 55 3.81101
r31 38 39 11.5
r32 36 50 5.02856
r33 36 37 141.5
r34 32 54 1.08016
r35 32 34 60
r36 31 62 0.0532817
r37 30 31 13.2552
r38 28 54 1.08016
r39 28 30 4.48085
r40 27 37 6.45644
r41 27 30 1.07234
r42 25 54 3.6993
r43 25 26 25
r44 21 26 5.02856
r45 21 23 60
r46 17 20 0.192
r47 16 20 8.16635
r48 16 17 5.44423
r49 14 16 0.85
r50 11 12 16.3327
r51 9 11 3.375
r52 7 20 0.5668
r53 7 8 0.000663774
r54 6 12 0.1942
r55 5 8 0.0413841
r56 5 62 0.115652
r57 3 6 0.0413287
r58 2 8 0.0413841
r59 2 3 0.273913
.ends

.subckt PM_AND6_DOMINO_B 4 12
c0 12 0 0.113279f
c1 7 0 0.105514f
c2 4 0 0.275203f
r3 7 9 8.08937
r4 7 12 13.2552
r5 4 9 77.5
.ends

.subckt PM_AND6_DOMINO_A 4 13
c0 13 0 0.101173f
c1 7 0 0.110854f
c2 4 0 0.275187f
r3 7 9 8.08937
r4 7 13 13.2552
r5 4 9 77.5
.ends

.subckt PM_AND6_DOMINO_VDD 11 16 17 22 27 28 34 35
c0 74 0 0.0552676f
c1 72 0 0.16917f
c2 59 0 0.0916759f
c3 38 0 0.409061f
c4 34 0 0.00802855f
c5 31 0 0.418716f
c6 27 0 0.00802855f
c7 25 0 0.101357f
c8 20 0 0.0954493f
c9 14 0 0.0317696f
c10 9 0 0.103934f
c11 6 0 0.0276029f
c12 5 0 0.0749145f
c13 2 0 0.0334152f
r14 71 72 5.44423
r15 66 67 16.3327
r16 62 66 26.4255
r17 62 63 16.3327
r18 59 77 0.103
r19 58 59 16.3327
r20 53 86 0.035
r21 53 77 0.035
r22 52 53 16.3327
r23 49 84 0.00770322
r24 49 74 0.0296412
r25 48 49 16.3327
r26 43 74 0.103
r27 42 43 16.3327
r28 38 40 0.1918
r29 37 40 16.3327
r30 37 38 5.44423
r31 35 37 1.1475
r32 34 37 1.1475
r33 31 33 0.1918
r34 30 33 16.3327
r35 30 31 5.44423
r36 28 30 1.1475
r37 27 30 1.1475
r38 25 86 0.1188
r39 24 25 16.3327
r40 22 24 3.375
r41 20 84 0.1188
r42 19 20 16.3327
r43 17 19 3.375
r44 16 71 26.4255
r45 16 66 26.4255
r46 16 58 6.60638
r47 16 52 6.60638
r48 16 48 6.60638
r49 16 42 6.60638
r50 14 67 0.103
r51 14 15 0.0296412
r52 13 72 0.379
r53 13 15 0.0296412
r54 12 40 0.119
r55 12 15 0.00770322
r56 9 63 0.103
r57 9 11 0.0296412
r58 8 67 0.103
r59 8 11 0.0296412
r60 7 33 0.119
r61 7 11 0.00770322
r62 6 63 0.277
r63 5 6 0.039111
r64 4 53 0.035
r65 4 5 0.194
r66 3 49 0.0296412
r67 2 53 0.035
r68 2 3 0.104
.ends

.subckt PM_AND6_DOMINO_OUT 8 9 15 16 22 23 30
c0 26 0 0.681107f
c1 19 0 0.4238f
c2 15 0 0.0110119f
c3 12 0 0.416988f
c4 8 0 0.0110119f
c5 7 0 0.0242858f
c6 3 0 0.023492f
c7 2 0 0.0961834f
r8 26 30 0.3998
r9 25 26 8.16635
r10 23 25 2.295
r11 22 25 2.295
r12 19 21 0.1918
r13 18 21 16.3327
r14 18 19 5.44423
r15 16 18 1.1475
r16 15 18 1.1475
r17 12 14 0.1918
r18 11 14 16.3327
r19 11 12 5.44423
r20 9 11 1.1475
r21 8 11 1.1475
r22 6 19 0.2092
r23 6 7 0.020636
r24 5 30 0.512
r25 5 7 0.020636
r26 4 12 0.2092
r27 3 4 0.0413287
r28 2 7 0.0165808
r29 2 3 0.264783
.ends

.subckt PM_AND6_DOMINO_VSS 6 37 44 51 56 82
c0 78 0 0.0557335f
c1 75 0 0.0601781f
c2 72 0 0.0287215f
c3 59 0 0.137012f
c4 54 0 0.114336f
c5 47 0 0.167116f
c6 46 0 0.00839922f
c7 40 0 0.304226f
c8 39 0 0.00776746f
c9 29 0 0.0123314f
c10 4 0 0.0297537f
c11 2 0 0.0315516f
r12 78 82 0.433
r13 59 72 0.1192
r14 58 59 8.16635
r15 56 58 2.295
r16 54 69 0.1192
r17 53 54 8.16635
r18 51 53 2.295
r19 47 49 0.192
r20 47 65 0.2152
r21 46 49 8.16635
r22 46 47 5.44423
r23 44 46 0.85
r24 40 42 0.192
r25 40 61 0.2152
r26 39 42 8.16635
r27 39 40 5.44423
r28 37 39 0.85
r29 35 72 0.0195555
r30 34 35 16.3327
r31 29 69 0.00770322
r32 28 29 16.3327
r33 25 65 0.00770322
r34 25 78 0.0296412
r35 24 25 16.3327
r36 19 82 0.078
r37 19 79 0.119
r38 18 19 16.3327
r39 15 61 0.00770322
r40 15 75 0.0296412
r41 15 79 0.0296412
r42 14 15 16.3327
r43 9 75 0.511
r44 8 9 16.3327
r45 6 34 13.2128
r46 6 28 13.2128
r47 6 24 26.1383
r48 6 18 26.1383
r49 6 14 26.1383
r50 6 8 26.1383
r51 5 29 0.0296412
r52 4 35 0.0195555
r53 4 5 0.206
r54 3 25 0.0296412
r55 2 29 0.0296412
r56 2 3 0.104
.ends

.subckt PM_AND6_DOMINO_NET5 1 2
c0 1 0 0.0286918f
r1 1 2 1.66667
.ends

.subckt PM_AND6_DOMINO_NET4 1 2
c0 1 0 0.0286918f
r1 1 2 1.66667
.ends

.subckt PM_AND6_DOMINO_NET3 1 2
c0 1 0 0.0282592f
r1 1 2 1.66667
.ends

.subckt PM_AND6_DOMINO_NET2 1 2
c0 1 0 0.0286918f
r1 1 2 1.66667
.ends

.subckt PM_AND6_DOMINO_NET1 1 2
c0 1 0 0.0286918f
r1 1 2 1.66667
.ends

.subckt PM_AND6_DOMINO_NET0 1 2
c0 1 0 0.0286316f
r1 1 2 1.66667
.ends

